US07064123B1
To a stirring mixture of itacconic anhydride (1.1209 g, 10 mmol) in 10 ml of methylene chloride at 0° C. was added drop wise isopropyl amine (0.85 ml, 10 mmol). The reaction was stirred at room temperature for 1 hour and the solvent was removed under reduced pressure to give 2-(isopropylcarbamoyl-methyl)-acrylic acid. The residue was dissolved in 10 ml of DMF, then benzyl mercaptan (1.17 g, 10.0 mmol) and DMAP (122 mg, 1 mmol) were added and the reaction was stirred at room temperature for overnight. The mixture containing 2-benzylsulfanylmethyl-N-isopropyl-succinamic acid was cooled to 0° C. and oxone® (4.9182 g, 8 mmol) in 20 ml of water was added and stirred for 2 hours at room temperature. More oxone® was added and the reaction was stirred at room temperature for 18 hours. The reaction was filtered and the white solid was washed with water, ether and dried under high vacuum to give 1.0 grams of N-isopropyl-2-benzylsulfonylmethyl-succinamic acid, which was used without further purification; LCMS retention time 2:32 minutes: MS+1 (328.1).

reactant | benzyl mercaptan | 10.0 mmol, 1.17 g | C(C1=CC=CC=C1)S | C7H8S
reactant | 2-benzylsulfanylmethyl-N-isopropyl-succinamic acid | C(C1=CC=CC=C1)SCC(C(=O)O)CC(=O)NC(C)C | C15H21NO3S
reactant | oxone | OOS(=O)[O-].[K+]
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
catalyst | DMAP | 1 mmol, 122 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | water | 20 ml | O | H2O
product | N-isopropyl-2-benzylsulfonylmethyl-succinamic acid | 1.0 grams | C(C)(C)NC(CC(C(=O)O)CS(=O)(=O)CC1=CC=CC=C1)=O | C15H21NO5S
